US04070366
Preparation of 2,4-Dimethyl-3-acetyl-5-(α-methyl-benzyl)-pyrrole
A solution of 0.6 ml of acetophenone of 5 ml of acetic anhydride was slowly added to a stirred mixture of 10 ml of aqueous hydriodic acid, 10 ml of acetic anhydride and 2 ml of hypophosphorous acid containing 548 mg of 2,4-dimethyl-3-acetyl pyrrole. The mixture was allowed to stand for two days at room temperature then poured into water. The crude product which separated was recrystallized from acetone (thimble) as nearly colourless rhombic plates (75%), mp. 146°-148.5° C. Anal. Calc. For C16H19NO: C, 79.63; H, 7.94; N, 5.80. Found: C, 79.47: H, 7.78; N, 5.79.

reactant | acetophenone | 0.6 ml | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydriodic acid | 10 ml | I | HI
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hypophosphorous acid | 2 ml, 548 mg | [PH2](=O)O | H3O2P
reactant | 2,4-dimethyl-3-acetyl pyrrole | CC=1NC=C(C1C(C)=O)C | C8H11NO
solvent | water | O | H2O
product | 2,4-Dimethyl-3-acetyl-5-(α-methyl-benzyl)-pyrrole | CC=1NC(=C(C1C(C)=O)C)C(C1=CC=CC=C1)C | C16H19NO
